US04640913
4-Methoxy-1-tetradecyl-benzene
An about 3.70 g portion of magnesium was placed in a 100 ml, two-necked round bottom flask. The flask was flamed several times and about 28.5 g of p-bromoanisole and tetrahydrofuran were added. As soon as the reaction stopped it was refluxed for about 2 hours and then added to a boiling solution of about 21.07 g of tetradecyl bromide in tetrahydrofuran. Then about 9 ml of lithium cupric chloride was added and the mixture was refluxed for about 2 hours, then stirred at room temperature for about 16 hours, quenched with dilute hydrochloric acid, washed with ammonium chloride solution, sodium bicarbonate solution, brine and dried, giving about 23 g of the desired title compound, mp 38° C.

reactant | magnesium | [Mg] | Mg
reactant | p-bromoanisole | about 28.5 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | tetradecyl bromide | about 21.07 g | C(CCCCCCCCCCCCC)Br | C14H29Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Methoxy-1-tetradecyl-benzene | about 23 g | COC1=CC=C(C=C1)CCCCCCCCCCCCCC | C21H36O
